US05175157
2-[(N-(2-(Naphth-2-yl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrobromide
Prepared from 2-[(hexahydro-azepin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 2-(2-bromo-ethyl)-naphthalene analogously to Example 1.

reactant | 2-[(hexahydro-azepin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | C17H22N2O3
reactant | 2-(2-bromo-ethyl)-naphthalene | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
product | 2-[(N-(2-(Naphth-2-yl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrobromide | Br.C1=C(C=CC2=CC=CC=C12)CCN1CC(CCCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | InChI=1S/C29H32N2O3.BrH/c32-29-26-17-28-27(33-20-34-28)16-25(26)11-14-31(29)19-22-5-3-4-12-30(18-22)13-10-21-8-9-23-6-1-2-7-24(23)15-21;/h1-2,6-9,15-17,22H,3-5,10-14,18-20H2;1H
